US07276516B2
3-(4-Methyl-piperazin-1-yl)-1-triisopropylsilanyl-1H-indole
Following a method similar to 3-morpholin-4-yl-1-triisopropylsilanyl-1H-indole using 3-bromo-1-triisopropylsilanyl-1H-indole (0.70 g, 1.99 mmol), 1-methyl-piperazine (0.30 g, 3.00 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.02 g, 0.05 mmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.05 g, 0.05 mmol) and 1N solution of lithium bis(trimethylsilyl)amide in THF (2.40 mL). Purify by flash chromatography using 0 to 12% of MeOH in dichloromethane to give the title compound (0.23 g, 32%). MS (ES) 372.1 (M+1)+.

reactant | 3-morpholin-4-yl-1-triisopropylsilanyl-1H-indole | N1(CCOCC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C21H34N2OSi
reactant | 3-bromo-1-triisopropylsilanyl-1H-indole | 1.99 mmol, 0.70 g | BrC1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | 1-methyl-piperazine | 3.00 mmol, 0.30 g | CN1CCNCC1 | C5H12N2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 2.40 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.05 mmol, 0.05 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.05 mmol, 0.02 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
product | 3-(4-Methyl-piperazin-1-yl)-1-triisopropylsilanyl-1H-indole | 0.23 g, 32% | CN1CCN(CC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C22H37N3Si
